US06624163B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-{[methyl-(pyrrolidin-1-yl-acetyl)-amino]-methyl}-benzamide
Using 4-[(Chloroacetyl-methyl-amino)-methyl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide and pyrrolidine the title compound was obtained as white crystals (61% yield), mp 114-116° C.). MS: m/e=524 (M+H+).

reactant | 4-[(Chloroacetyl-methyl-amino)-methyl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | ClCC(=O)N(C)CC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C23H25ClN4O4S
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-{[methyl-(pyrrolidin-1-yl-acetyl)-amino]-methyl}-benzamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CN(C(CN2CCCC2)=O)C)=O)N2CCOCC2 | C27H33N5O4S
